US05256675
A mixture of 2-acetylamino-5-(4-aminophenylsulfinyl)thiazole (5.0 g) in a mixture of aqueous 6N-hydrochloric acid (10 ml) and acetic acid (35 ml) was refluxed for 3.5 hours with stirring. The reaction mixture was diluted with water and adjusted to pH 8 using aqueous sodium carbonate under ice cooling. The precipitates were collected by filtration, washed with water and dried in vacuo to give 2-amino-5-(4-aminophenylsulfinyl)thiazole (4.5 g, yield: 100%). mp: 205°-208° C. (dec.)

reactant | 2-acetylamino-5-(4-aminophenylsulfinyl)thiazole | 5.0 g | C(C)(=O)NC=1SC(=CN1)S(=O)C1=CC=C(C=C1)N | C11H11N3O2S2
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 2-amino-5-(4-aminophenylsulfinyl)thiazole | 4.5 g, yield: 100% | NC=1SC(=CN1)S(=O)C1=CC=C(C=C1)N | C9H9N3OS2
